US07790770B2
To a solution of (R,E)-1-(3,3-difluorocyclobutyl)-3-(1-(4-fluoro-3-styrylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea (509 mg, 0.8 mmol) in DCM (10 ml) at 0° C. was added 4-methylmorpholine N-oxide (104 mg, 0.8 mmol). Ozone was bubbled through the resulting yellow solution for 10 min. The reaction solvent was removed and the residue was purified by ISCO chromatography (12 g column, 0-30% EtOAc/hexane) to yield (R)-1-(3,3-difluorocyclobutyl)-3-(1-(4-fluoro-3-formylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea as a colorless oil (106 mg, 23% yield). 1H NMR (400 MHz, CDCl3) δ ppm 10.22 (s, 1H), 8.06 (m, 1H), 7.67 (dd, J=6.19, 2.65 Hz, 1H), 7.16 (m, 4H), 6.85 (m, 3H), 6.69 (m, 3H), 5.85 (m, 1H), 5.40 (d, J=6.57 Hz, 1H), 4.00 (m, 1H), 2.90 (m, 2H).

reactant | (R,E)-1-(3,3-difluorocyclobutyl)-3-(1-(4-fluoro-3-styrylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea | 0.8 mmol, 509 mg | FC1(CC(C1)NC(=O)N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)\C=C\C1=CC=CC=C1)F | C35H28F8N2O2
reactant | 4-methylmorpholine N-oxide | 0.8 mmol, 104 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(3,3-difluorocyclobutyl)-3-(1-(4-fluoro-3-formylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)urea | 106 mg, 23% yield | FC1(CC(C1)NC(=O)N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)C=O)F | C28H22F8N2O3
